US07700641B2
Synthesis of methyl 3-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate
Following the procedure as described in EXAMPLE 1, and making non-critical variations using methyl 3-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained as a white powder in 73% yield; 1H NMR (300 MHz, CDCl3) δ 7.97-7.95 (m, 2H), 7.53-7.50 (m, 1H), 7.45-7.40 (m, 1H), 7.21-7.15 (m, 2H), 7.04-6.99 (m, 1H), 6.73-6.71 (m, 1H), 6.52 (s, 1H), 6.20 (s, 1H), 5.86 (s, 1H), 5.18 (d, 1H), 4.72 (d, 1H), 4.80 (d, 1H), 4.69 (d, 1H), 3.89 (s, 1H); 13C NMR (75 MHz, CDCl3) δ 177.7, 166.6, 156.0, 149.0, 142.4, 141.7, 136.1, 132.2, 131.7, 130.9, 129.2, 128.1, 124.0, 123.7, 119.4, 109.2, 103.1, 101.6, 93.7, 80.5, 64.3, 58.3, 52.3, 43.7; MS (ES+) m/z 430 (M+1).

reactant | methyl 3-{[3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]methyl}benzoate | OC=1C(=CC2=C(OCO2)C1)C1(C(N(C2=CC=CC=C12)CC=1C=C(C(=O)OC)C=CC1)=O)CO | C25H21NO7
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | methyl 3-[(2′-oxospiro[furo[2,3-f][1,3]benzodioxole-7,3′-indol]-1′(2′H)-yl)methyl]benzoate | 73% yield | O=C1N(C2=CC=CC=C2C12COC=1C2=CC2=C(OCO2)C1)CC=1C=C(C(=O)OC)C=CC1 | C25H19NO6
